US08802697B2
Synthesis of N-((3-(3-isopropoxy-5-(3-(2,2,2-trifluoroethyl)ureido)phenyl)imidazo[1,2-a]pyridin-8-yl)methyl)propiolamide
To a solution of 1-(3-(8-(aminomethyl)imidazo[1,2-a]pyridin-3-yl)-5-isopropoxyphenyl)-3-(2,2,2-trifluoroethyl)urea (26 mg, 0.062 mmol) in DCM (3 ml) was added DIEA (0.075 ml, 0.432 mmol) and HATU (35.2 mg, 0.093 mmol) and finally propiolic acid (4.95 μl, 0.080 mmol). Reaction was stirred for 30 minutes at room temperature. Reaction was loaded directly onto silica column and purified by flash chromatography (0-10% CH2Cl2/MeOH) to give the title compound (19 mg, 0.040 mmol, 65.0% yield) as an off white solid. MS (ES+) C23H22F3N5O3 requires: 473. found: 474 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ 9.34 (s, 1H), 8.92 (s, 1H), 8.47 (d, J=6.8 Hz, 1H), 7.74 (s, 1H), 7.17 (d, J=1.9 Hz, 2H), 7.10 (s, 1H), 6.98 (s, 1H), 6.82 (s, 1H), 6.74 (s, 1H), 4.69-4.58 (m, 2H), 3.93 (dd, J=9.7, 6.4 Hz, 2H), 2.72-2.64 (m, 1H), 1.30-1.19 (m, 6H).

reactant | 1-(3-(8-(aminomethyl)imidazo[1,2-a]pyridin-3-yl)-5-isopropoxyphenyl)-3-(2,2,2-trifluoroethyl)urea | 0.062 mmol, 26 mg | NCC=1C=2N(C=CC1)C(=CN2)C=2C=C(C=C(C2)OC(C)C)NC(=O)NCC(F)(F)F | C20H22F3N5O2
reactant | DIEA | 0.432 mmol, 0.075 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.093 mmol, 35.2 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | propiolic acid | 0.080 mmol, 4.95 μl | C(C#C)(=O)O | C3H2O2
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
product | N-((3-(3-isopropoxy-5-(3-(2,2,2-trifluoroethyl)ureido)phenyl)imidazo[1,2-a]pyridin-8-yl)methyl)propiolamide | 0.040 mmol, 19 mg, 65.0% yield | C(C)(C)OC=1C=C(C=C(C1)NC(=O)NCC(F)(F)F)C1=CN=C2N1C=CC=C2CNC(C#C)=O | C23H22F3N5O3
